US09120825B2
In an argon atmosphere, 5.70 g (24.5 mmol) of Si(tBuNCHCHNtBu)(H)Cl was dissolved in 40 mL of hexane and after adding 2.90 g (49.1 mmol) of isopropylamine, the mixture was stirred at room temperature for 5 hours. Insoluble matters produced were separated by filtration, and the solvent was removed by distillation from the filtrate under atmospheric pressure. The obtained residue was distilled under reduced pressure (distillation temperature: 90° C./3.7×102 Pa) to obtain 1,3-di-tert-butyl-2-isopropylamino-1,3-diaza-2-silacyclopent-4-ene (Si(tBuNCHCHNtBu)(H)NHiPr) as a pale yellow liquid (yielded amount: 5.65 g, yield: 90%).

reactant | 2-chloro-1,3-di-tert-butyl-1,3-diaza-2-silacyclopent-4-ene | 24.5 mmol, 5.70 g | Cl[SiH]1N(C=CN1C(C)(C)C)C(C)(C)C | C10H21ClN2Si
reactant | isopropylamine | 49.1 mmol, 2.90 g | C(C)(C)N | C3H9N
solvent | hexane | 40 mL | CCCCCC | C6H14
product | 1,3-di-tert-butyl-2-isopropylamino-1,3-diaza-2-silacyclopent-4-ene | yield: 90% | C(C)(C)(C)N1[SiH](N(C=C1)C(C)(C)C)NC(C)C | C13H29N3Si
